US05965490
4. Preparation of 2-Methoxy-3-propylthio-4-(trifluoromethyl)pyridine
A solution prepared by adding 110 mL (154 mmol) of 1.4 M methyl lithium in diethyl ether to 70 mL of dry tetrahydrofuran under a nitrogen blanket was cooled with a dry ice/acetone bath and to it was added with cooling and stirring 12.4 g (70 mmol) of 2-methoxy-4-(trifluoromethyl)pyridine and 0.92 mL (7 mmol) of diisopropylamine. The mixture was allowed to warm to -40° C. was then recooled in a dry ice/acetone bath. Dipropyl disulfide (33 mL, 210 mmol) was added dropwise with stirring and cooling. The resulting mixture was allowed to warm to ambient temperature and was then diluted with 150 mL of water and extracted with diethyl ether. The ethereal extract was dried over magnesium sulfate and concentrated by evaporation under reduced pressure. The tan oil residue was purified by chromatography on silica gel eluting with a mixture of hexane and ethyl acetate to obtain 14.1 g (80 percent of theory) of the title compound as a light yellow oil.

reactant | methyl lithium | 154 mmol, 1.4 M, 110 mL | C[Li]
reactant | 2-methoxy-4-(trifluoromethyl)pyridine | 70 mmol, 12.4 g | COC1=NC=CC(=C1)C(F)(F)F | C7H6F3NO
reactant | diisopropylamine | 7 mmol, 0.92 mL | C(C)(C)NC(C)C | C6H15N
reactant | Dipropyl disulfide | 210 mmol, 33 mL | C(CC)SSCCC | C6H14S2
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | water | 150 mL | O | H2O
solvent | tetrahydrofuran | 70 mL | O1CCCC1 | C4H8O
product | 2-Methoxy-3-propylthio-4-(trifluoromethyl)pyridine | COC1=NC=CC(=C1SCCC)C(F)(F)F | C10H12F3NOS
